US07915443B2
N-(3-ethynylphenyl)-3-methylfuran-2-carboxamide
A dry 25 mL flask was charged with 3-methylfuran-2-carboxylic acid (0.500 g, 3.46 mmol) and thionyl chloride (10 mL). The reaction was heated to 50° C. and allowed to react for 2 h. The reaction was then cooled to room temperature and concentrated affording the crude acid chloride. The acid chloride was then dissolved in THF (5 mL) and 3-ethynyl-phenylamine (0.41 g, 3.47 mmol) was added followed by NEt3 (0.95 mL, 7 mmol). The mixture was allowed to stir at 55° C. for 3 hours and the cooled to room temperature. The reaction was then partitioned between EtOAc and water. The organic layer was then washed once with 1M HCl (5 mL) and then once with saturated aqueous NaHCO3 (5 mL). The organic extracts were then concentrated to give the title compound as a light brown solid (631 mg, 2.80 mmol, 81%).

reactant | 3-methylfuran-2-carboxylic acid | 3.46 mmol, 0.500 g | CC1=C(OC=C1)C(=O)O | C6H6O3
reactant | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-ethynyl-phenylamine | 3.47 mmol, 0.41 g | C(#C)C=1C=C(C=CC1)N | C8H7N
reactant | NEt3 | 7 mmol, 0.95 mL | CCN(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(3-ethynylphenyl)-3-methylfuran-2-carboxamide | 2.80 mmol, 631 mg, 81% | C(#C)C=1C=C(C=CC1)NC(=O)C=1OC=CC1C | C14H11NO2
